US08871767B2
2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]aniline
A mixture of 2-(4-methyl-3-nitro-phenyl)-6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazine (7.986 g, 0.02 mol) in EtOH—AcOH (48 mL, 1:1) is added slowly to a solution of iron powder (6.702 g, 0.12 mol) in EtOH—AcOH (60 mL, 2:1) at 60° C. The mixture is stirred at 70° C. for 60 min, cooled to room temperature, filtered through celite, washed with EtOAc and concentrated. The oily residue is dissolved in EtOAc (500 mL) and washed twice with saturated aqueous NaHCO3 (200 mL). Organic layer is dried and concentrated to afford the title compound as a solid (7.3 g). LCMS (m/z)=370.5 [M+H]+, tR=1.85 min.

reactant | 2-(4-methyl-3-nitro-phenyl)-6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazine | 0.02 mol, 7.986 g | CC1=C(C=C(C=C1)C=1N=C2C=CC(=NN2C1)C=1C(=NC=CC1)C(F)(F)F)[N+](=O)[O-] | C19H12F3N5O2
solvent | EtOH AcOH | 48 mL | CCO.CC(=O)O
solvent | EtOH AcOH | 60 mL | CCO.CC(=O)O
catalyst | iron | 0.12 mol, 6.702 g | [Fe] | Fe
product | 2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]aniline | 7.3 g | CC1=C(N)C=C(C=C1)C=1N=C2C=CC(=NN2C1)C=1C(=NC=CC1)C(F)(F)F | C19H14F3N5
